US07989624B2
Step A. 7-Bromo-1,3,3-trimethyl-1,3-dihydro-2H-indol-2-one
To a solution of 7-bromo-1,3-dihydro-2H-indol-2-one (200 mg, 0.94 mmol) in DMF (5 mL) were added cesium carbonate (676 mg, 2.07 mmol) and iodomethane (294 mg, 2.07 mmol). The reaction mixture was stirred at ambient temperature for 18 h, then partitioned between H2O (50 mL) and EtOAc (100 mL). The organic extract was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc-100:0 to 85:15, to give the title compound. MS: m/z=254 (M+1).

reactant | 7-bromo-1,3-dihydro-2H-indol-2-one | 0.94 mmol, 200 mg | BrC=1C=CC=C2CC(NC12)=O | C8H6BrNO
reactant | cesium carbonate | 2.07 mmol, 676 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 2.07 mmol, 294 mg | IC | CH3I
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-Bromo-1,3,3-trimethyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC=C2C(C(N(C12)C)=O)(C)C | C11H12BrNO
